US07288658B2
480 mg (1.642 mmol) 6-(4-methyl-piperazin-1-yl)-4-o-tolyl-nicotinonitrile were treated with 3.8 ml sulfuric acid (90%) and heated at 80° C. for 1 hour. The mixture was cooled down to 20-25° C. and treated with 20 ml ethyl acetate. 2.0 g sodium hydroxide solution (28%) was added and the organic phase was washed with 6 ml water. Evaporation in vacuo gave 380 mg of 6-(4-methylpiperazin-1-yl)-4-o-tolyl-nicotinamide as a light yellow crystalline foam.

reactant | 6-(4-methyl-piperazin-1-yl)-4-o-tolyl-nicotinonitrile | 1.642 mmol, 480 mg | CN1CCN(CC1)C1=NC=C(C#N)C(=C1)C1=C(C=CC=C1)C | C18H20N4
reactant | sulfuric acid | 3.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 2.0 g | [OH-].[Na+]
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 6-(4-methylpiperazin-1-yl)-4-o-tolyl-nicotinamide | 380 mg | CN1CCN(CC1)C1=NC=C(C(=O)N)C(=C1)C1=C(C=CC=C1)C | C18H22N4O
